US09290465B2
To a solution of [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (38 mg, 0.137 mmol) in DMF (1 mL) was added K2CO3 (20 mg, 0.145 mmol) and 3-phenyl-1-bromopropane (20 μL, 0.132 mmol). After stirring for 1 h at rt and 14 h at 50° C., the reaction mixture was cooled stirred for 6 h at rt. The reaction mixture was loaded directly onto silica gel. {3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester was isolated as a white solid by column chromatography (10% ethyl acetate in hexane).

reactant | [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 0.137 mmol, 38 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)O)=O | C14H16N2O4
reactant | K2CO3 | 0.145 mmol, 20 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-phenyl-1-bromopropane | 0.132 mmol, 20 μL | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | {3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCCCC1=CC=CC=C1)=O | C23H26N2O4
